US07160905B2
Methyl 3-methoxy-5-methylsuLfonylbenzoate (D14)
3-Hydroxy-5-methylsulfonylbenzoic acid (D13) was dissolved in DMF (42 ml) and treated with caesium carbonate (14.1 g) and methyl iodide (8.6 ml) The mixture was sonicated under argon for 45 min. and stirred for 3 h at room temperature. The DMF was evaporated in vacuo and the residue was partitioned between ethyl acetate and 2M hydrochloric acid. The aqueous layer was re-extracted twice with ethyl acetate and the combined extracts were washed with sodium bicarbonate solution, sodium thiosulfate solution, water and brine, dried (Mg SO4) and evaporated to a semi solid. Trituration with ether gave D14 (2 crops, 2.94 g).

reactant | 3-Hydroxy-5-methylsulfonylbenzoic acid | OC=1C=C(C(=O)O)C=C(C1)S(=O)(=O)C | C8H8O5S
reactant | caesium carbonate | 14.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 8.6 ml | CI | CH3I
reactant | DMF | 42 ml | CN(C)C=O | C3H7NO
product | Methyl 3-methoxy-5-methylsuLfonylbenzoate | COC=1C=C(C(=O)OC)C=C(C1)S(=O)(=O)C | C10H12O5S
